US07084176B2
4-[2-(tert-Butoxycarbonylamino)ethoxy]-3-methoxy-N-[3-[(E)-2-(3-methylphenyl)vinyl]phenyl]phenylacetamide (100 mg) is dissolved in methanol (10 ml) and acetic acid (1 ml), and thereto is added 10% palladium on carbon (10 mg), and the mixture is subjected to catalytic hydrogenation at 50° C. The catalyst is removed by filtration, and the solvent is evaporated to give 4-[2-(tert-butoxycarbonylamino)ethoxy]-3-methoxy-N-[3-[2-(3-methylphenyl)ethyl]phenyl]phenylacetamide (80 mg). This product is treated with 10% hydrogen chloride-methanol to give the desired compound (50 mg).

reactant | 4-[2-(tert-Butoxycarbonylamino)ethoxy]-3-methoxy-N-[3-[(E)-2-(3-methylphenyl)vinyl]phenyl]phenylacetamide | 100 mg | C(C)(C)(C)OC(=O)NCCOC1=C(C=C(C=C1)CC(=O)NC1=CC(=CC=C1)\C=C\C1=CC(=CC=C1)C)OC | C31H36N2O5
solvent | methanol | 10 ml | CO | CH4O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | 4-[2-(tert-butoxycarbonylamino)ethoxy]-3-methoxy-N-[3-[2-(3-methylphenyl)ethyl]phenyl]phenylacetamide | 80 mg | C(C)(C)(C)OC(=O)NCCOC1=C(C=C(C=C1)CC(=O)NC1=CC(=CC=C1)CCC1=CC(=CC=C1)C)OC | C31H38N2O5
